US09062070B2
Step B: 4-Bromo-N-tert-butyl-3-fluoro-2-[(2R)-2-hydroxypropyl]benzamide
A solution of diisopropylamine (11.7 mL, 82.0 mmol) in THF (200 mL) was treated with n-butyllithium (33 mL, 82 mmol) at 0° C. The solution was stirred for 30 min before being cooled to −78° C. Next, a solution of 4-bromo-N-tert-butyl-3-fluorobenzamide (9.0 g, 33 mmol) in THF (100 mL) was added. The solution was then warmed to −40° C. and maintained there for 1 h. Next, (R)-(+)-propylene oxide (6.9 mL, 98 mmol) was added and the solution warmed to 0° C. After 1 h, the ice bath was removed and the solution was allowed to warm to rt. LC/MS indicated desired product present. The solution was quenched with MeOH, diluted with brine (200 mL), and extracted with EtOAc (300 mL). The organic layer was removed, dried over MgSO4, filtered and concentrated. The crude material was purified using a 340 g Biotage SNAP (0-60% Hexanes: EtOAc) cartridge to yield the title compound. LC-MS: m/z 332.08 (M+H)+.

reactant | diisopropylamine | 82.0 mmol, 11.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 82 mmol, 33 mL | C(CCC)[Li]
reactant | 4-bromo-N-tert-butyl-3-fluorobenzamide | 33 mmol, 9.0 g | BrC1=C(C=C(C(=O)NC(C)(C)C)C=C1)F | C11H13BrFNO
reactant | (R)-(+)-propylene oxide | 98 mmol, 6.9 mL | C1[C@@H](C)O1 | C3H6O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Bromo-N-tert-butyl-3-fluoro-2-[(2R)-2-hydroxypropyl]benzamide | BrC1=C(C(=C(C(=O)NC(C)(C)C)C=C1)C[C@@H](C)O)F | C14H19BrFNO2
